US06150373
A mixture of 200 mg (0.52 mmol) of 3-(2,6-dichlorophenyl)-3,4-dihydro-7-methanesulfonyl-1-methylpyrimido[4,5-d]pyrimidin-2(1H)-one and 800 mg (4.47 mmol) of ethyl 4-aminophenylacetate was heated at 185° C. for 45 minutes. The residue was partitioned between 10 ml of ethyl acetate and 10 ml of 2M hydrochloric acid and the insoluble cream colored solid was collected by filtration and washed with 20 ml of water and 20 ml of ethyl acetate and then dried under a high vacuum. 95 mg (38%) of ethyl 2-[4-[[3-(2,6-dichlorophenyl)-1,2,3,4-tetrahydro-1-methyl-2-oxopyrimido[4,5-d]pyrimidin-7-yl]amino]phenyl]acetate of melting point 211-212° C. were isolated.

reactant | 3-(2,6-dichlorophenyl)-3,4-dihydro-7-methanesulfonyl-1-methylpyrimido[4,5-d]pyrimidin-2(1H)-one | 0.52 mmol, 200 mg | ClC1=C(C(=CC=C1)Cl)N1C(N(C2=NC(=NC=C2C1)S(=O)(=O)C)C)=O | C14H12Cl2N4O3S
reactant | ethyl 4-aminophenylacetate | 4.47 mmol, 800 mg | NC1=CC=C(C=C1)CC(=O)OCC | C10H13NO2
product | ethyl 2-[4-[[3-(2,6-dichlorophenyl)-1,2,3,4-tetrahydro-1-methyl-2-oxopyrimido[4,5-d]pyrimidin-7-yl]amino]phenyl]acetate | 95 mg, 38% | ClC1=C(C(=CC=C1)Cl)N1C(N(C2=NC(=NC=C2C1)NC1=CC=C(C=C1)CC(=O)OCC)C)=O | C23H21Cl2N5O3
